US07943619B2
6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide
As described for example 116e, 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester (107 mg, 0.3 mmol) was converted, using 2,2,2-trifluoroethylamine instead of cyclopropylamine, to the title compound (72 mg, 59%) which was obtained as a white solid. MS: m/e=410.1 [M+H]−.

reactant | 6-{[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid ethyl ester | 0.3 mmol, 107 mg | C(C)OC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F | C18H17FN4O3
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 6-{[3-(3-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-pyridazine-3-carboxylic acid (2,2,2-trifluoro-ethyl)-amide | 72 mg, 59% | FC(CNC(=O)C=1N=NC(=CC1)NCC=1C(=NOC1C)C1=CC(=CC=C1)F)(F)F | C18H15F4N5O2
